### PR TITLE
[Merged by Bors] - refactor(Algebra/Homology/ShortComplex/ModuleCat, RepresentationTheory/GroupCohomology/*): unfold `CategoryTheory.ShortComplex.moduleCatLeftHomologyData` less eagerly

### PR DESCRIPTION
**Pull request by 101damnations**
`ShortComplex.moduleCatLeftHomologyData` represents the homology of a short complex in `ModuleCat` as a concrete quotient of a `LinearMap.ker` by a `LinearMap.range`. When working on the level of linear maps - i.e. `ModuleCat.Hom.hom` of a morphism in `ModuleCat` - simp lemmas unfolding this concrete definition are useful. But when reasoning about morphisms in `ModuleCat` it seems handy not to unfold the definition, so that `simp` can apply the general `LeftHomologyData` API.

To that end, this PR replaces simp lemmas `ShortComplex.moduleCatLeftHomologyData_i, ShortComplex.moduleCatLeftHomologyData_π` with their linear map versions, `ShortComplex.moduleCatLeftHomologyData_i_hom, ShortComplex.moduleCatLeftHomologyData_π_hom`. 
It also rephrases declarations about `ModuleCat` morphisms in the group cohomology folder in terms of `ShortComplex.moduleCatLeftHomologyData` rather than unfolding.

Deletions:
- CategoryTheory.ShortComplex.moduleCatHomology
- CategoryTheory.ShortComplex.moduleCatHomologyπ
- CategoryTheory.ShortComplex.moduleCatLeftHomologyData_i
- CategoryTheory.ShortComplex.moduleCatLeftHomologyData_π
- CategoryTheory.ShortComplex.moduleCatLeftHomologyData_f'

---

I hope this seems reasonable - I've found it handy personally. 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean [hunk 1]
```diff
@@ -117,61 +117,78 @@ def moduleCatLeftHomologyData : S.LeftHomologyData where
   wπ := by aesop
   hπ := ModuleCat.cokernelIsColimit (ModuleCat.ofHom S.moduleCatToCycles)
 
+lemma moduleCatLeftHomologyData_K :
+    S.moduleCatLeftHomologyData.K = ModuleCat.of R (LinearMap.ker S.g.hom) :=
+  rfl
```
Comment (kbuzzard) [inline Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean:122]: Is it possible to make `simps` make this lemma, and make it not be a simp lemma, whilst still having it make `i_hom` etc as simp lemmas?

Comment (101damnations) [reply Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean]: Ooh, apparently yes, thank you

File: Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean [hunk 2]
```diff
@@ -106,7 +106,7 @@ abbrev moduleCatHomologyπ : ModuleCat.of R (LinearMap.ker S.g.hom) ⟶ S.module
 
 /-- The explicit left homology data of a short complex of modules that is
 given by a kernel and a quotient given by the `LinearMap` API. -/
-@[simps K H i π]
+@[simps! i_hom π_hom, simps! -isSimp K H]
 def moduleCatLeftHomologyData : S.LeftHomologyData where
```
Comment (erdOne) [inline Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean:110]: If the intention is to unfold less, maybe remove the abbrevs above and make them inline in this def to avoid people from using them? Even better is to add a sentence to the docstring of this saying something like "the projections to `K` and `H` are not simp lemmas because the generic lemmas about `LeftHomologyData` is more useful here" (or any other reason for the change).

**Review by erdOne — COMMENTED** [review]
Why are some commuting square lemmas unsimped and some are not? If there is a reason or rule behind this maybe you could document it somewhere.

File: Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean (hunk 2 above)
Comment (101damnations) [reply Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean:102]: Done, thank you. Also, I only unsimped some commuting square lemmas because they're now provable by simp. Maybe I should make them `simp high` instead?

File: Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean [hunk 3]
```diff
@@ -95,28 +95,26 @@ def moduleCatToCycles : S.X₁ →ₗ[R] LinearMap.ker S.g.hom where
...
   i := ModuleCat.ofHom (LinearMap.ker S.g.hom).subtype
-  π := S.moduleCatHomologyπ
+  π := ModuleCat.ofHom (LinearMap.range S.moduleCatToCycles).mkQ
   wi := by aesop
   hi := ModuleCat.kernelIsLimit _
   wπ := by aesop
   hπ := ModuleCat.cokernelIsColimit (ModuleCat.ofHom S.moduleCatToCycles)
 
+@[deprecated "This abbreviation is now inlined" (since := "2025-05-13")]
+alias moduleCatHomology := moduleCatLeftHomologyData_H
```
Comment (erdOne) [inline Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean:113]:
```suggestion
/-- The homology of `S`. -/
@[deprecated "This abbreviation is now inlined" (since := "2025-05-13")]
abbrev moduleCatHomology := S.moduleCatLeftHomologyData.H
```
This might be more useful. Same below.

Comment (101damnations) [reply Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean:114]: Done, thanks!

Comment (erdOne) [reply Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean:114]: No I mean't pointing `moduleCatHomology` to `S.moduleCatLeftHomologyData.H` (the data, which is defeq to the original thing) instead of `moduleCatLeftHomologyData_H` (the lemma, which is not defeq and causes errors)

**Comment by 101damnations** [comment]
I'm having 2nd thoughts about this PR actually. I'm gonna take it off the queue for now

**Comment by joelriou** [comment]
Thanks!

bors merge
